US08383644B2
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
To a solution of (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester in DCM was added ((R)-1-isocyanato-ethyl)-benzene (5 eq.) and the reaction was stirred at room temperature for 1 hour. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 824.

reactant | (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O | C42H47N3O6
reactant | ((R)-1-isocyanato-ethyl)-benzene | 5 eq. | N(=C=O)[C@H](C)C1=CC=CC=C1 | C9H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | C1(CCCCC1)COC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(N[C@H](C)C2=CC=CC=C2)=O)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C50H54N4O7
